US05545742
Preparation of Methyl 2-[p-(5-acetamido-4-fluoro-2-nitroanilino)phenoxy]propionate
A mixture of 2',5'-difluoro-4'-nitroacetanilide (7.35 g, 0.034 mol) and methyl 2-(4-aminophenoxy)propionate (16.6 g, 0.085 mol) in dioxane is refluxed for 2 days, cooled to room temperature and poured into water. The resultant aqueous mixture is extracted with ethyl acetate and the organic extracts are combined, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a dark red gum. The gum is dissolved in hot diethyl ether and, after stirring briefly, an orange solid forms. The solid is collected via filtration and dried to give the title product as an orange solid, mp 126.5°-128.4° C.

reactant | 2',5'-difluoro-4'-nitroacetanilide | 0.034 mol, 7.35 g | FC1=C(NC(C)=O)C=C(C(=C1)[N+](=O)[O-])F | C8H6F2N2O3
reactant | methyl 2-(4-aminophenoxy)propionate | 0.085 mol, 16.6 g | NC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H13NO3
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-[p-(5-acetamido-4-fluoro-2-nitroanilino)phenoxy]propionate | C(C)(=O)NC=1C(=CC(=C(NC2=CC=C(OC(C(=O)OC)C)C=C2)C1)[N+](=O)[O-])F | C18H18FN3O6
